US06969578B2
Next, 2-phenyl-norbornadiene-1-carboxylic acid was synthesized. Ethyl 2-phenyl-norbornadiene-1-carboxylate (5.0 g) was combined with 3.8 g of potassium hydroxide in 50 mL of methanol. This solution was stirred at gentle reflux for 16 hours. All methanol was then removed by rotary evaporation, and the resulting residue was dissolved in 75 mL water. To this solution was added 10% HCl (aq) dropwise until the pH of the solution was acidic. The resulting yellow solid was collected by filtration. Recrystallization of this residue from isopropyl alcohol/water (40/60) gave 2.6 g of colorless needles in two crops (60% of theoretical). This intermediate product was characterized by NMR and by mass spectroscopy. 1H NMR (CDCl3) δ 7.54-7.50 (m, 2H); 7.39-7.32 (m, 3H); 7.02-6.99 (m, 1H); 6.93-6.90 (m, 1H); 4.08 (s, 1H); 3.87 (s, 1H); 2.27 (d, 1H); 2.08 (d, 1H).

reactant | Ethyl 2-phenyl-norbornadiene-1-carboxylate | 5.0 g | C1(=CC=CC=C1)C=1C2(CC=C(C1)C2)C(=O)OCC | C16H16O2
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-phenyl-norbornadiene-1-carboxylic acid | C1(=CC=CC=C1)C=1C2(CC=C(C1)C2)C(=O)O | C14H12O2
